US09056859B2
1-[2-hydroxy-2-(4-methyl-1-oxo-1,3-dihydro-2-benzofuran-5-yl)ethyl]piperazin-1-ium chloride
tert-Butyl-4-[2-hydroxy-2-(4-methyl-1-oxo-1,3-dihydro-2-benzofuran-5-yl)ethyl]piperazine-1-carboxylate (800 mg, 2.1 mmol, 1.0 eq) was treated with 4 N HCl in dioxane (4 mL). The reaction was stirred at r.t. for 3 h and then concentrated. The product was dried under high vacuum pump for 6 hr. The intermediate is often converted to the corresponding free base prior to use by partitioning between saturated Na2CO3 solution and CHCl3-IPA (3:1). LC-MS (IE, m/z): 277.1 [M+1]+; tR=0.4 min.

reactant | tert-Butyl-4-[2-hydroxy-2-(4-methyl-1-oxo-1,3-dihydro-2-benzofuran-5-yl)ethyl]piperazine-1-carboxylate | 2.1 mmol, 800 mg, 1.0 eq | C(C)(C)(C)OC(=O)N1CCN(CC1)CC(C1=C(C2=C(C(OC2)=O)C=C1)C)O | C20H28N2O5
reactant | HCl | 4 N | Cl | ClH
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | 1-[2-hydroxy-2-(4-methyl-1-oxo-1,3-dihydro-2-benzofuran-5-yl)ethyl]piperazin-1-ium chloride | [Cl-].OC(C[NH+]1CCNCC1)C1=C(C2=C(C(OC2)=O)C=C1)C | InChI=1S/C15H20N2O3.ClH/c1-10-11(2-3-12-13(10)9-20-15(12)19)14(18)8-17-6-4-16-5-7-17;/h2-3,14,16,18H,4-9H2,1H3;1H
